US07183413B2
p-Toluenesulfonic acid (catalytic amount) was added to a solution of p-methylaniline (10.7 g, 100 mmol) and ethyl acetoacetate (13.0 g, 110 mmol) in benzene (250 mL) at room temperature. The reaction mixture was refluxed with a Dean-Stark apparatus over night. After cooling down to room temperature, the reaction mixture was concentrated and purified by column chromatography (5% ethyl acetate in n-hexane) to give 3-p-tolylamino-but-2-enoic acid ethyl ester (18.6 g, 85% yield).

reactant | p-Toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | p-methylaniline | 100 mmol, 10.7 g | CC1=CC=C(N)C=C1 | C7H9N
reactant | ethyl acetoacetate | 110 mmol, 13.0 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | benzene | 250 mL | C1=CC=CC=C1 | C6H6
product | 3-p-tolylamino-but-2-enoic acid ethyl ester | 18.6 g, 85% yield | C(C)OC(C=C(C)NC1=CC=C(C=C1)C)=O | C13H17NO2
